US06649600B1
3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-thiopropionamide.
A suspension of P4S10 (23 mg, 53 μmol) and Na2CO3 (4 mg, 53 μmol) in THF (4 ml) was stirred vigorously for 20 min and 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-propionamide (20 mg, 45 μmol) was added. The resulting pale yellow solution was stirred at rt for 1 h, evaporated to dryness and dried in vacuo overnight. The crude material was purified by radial chromatography (1 mm plate) using 2-5% MeOH in CH2Cl2 as eluent to afford a white solid (11 mg, 55%). MS: 432 (MH+).

reactant | P4S10 | 53 μmol, 23 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Na2CO3 | 53 μmol, 4 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-[4-(2,6-dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo-[2.2.2]oct-1-yl]-propionamide | 45 μmol, 20 mg | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC(=O)N)=O)CCC | C22H33N5O3
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 3-[4-(2,6-Dioxo-1,3-dipropyl-2,3,6,7-tetrahydro-1H-purin-8-yl)-bicyclo[2.2.2]oct-1-yl]-thiopropionamide | 11 mg, 55% | O=C1N(C(C=2NC(=NC2N1CCC)C12CCC(CC1)(CC2)CCC(=S)N)=O)CCC | C22H33N5O2S
